US07132425B2
A yellow solution of potassium ferricyanide (1.00 g, 3.037 mmol), potassium carbonate (430.0 mg, 3.111 mmol), and (DHQ)2PHAL (19.0 mg, 0.0244 mmol) in tert-butyl alcohol/water (16.0 mL, 1:1) was cooled to 0° C. and then treated with a 0.2M solution of osmium tetroxide in toluene (0.048 mL, 0.0096 mmol) followed by the N-(5-allyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentylpropionamide (446.0 mg, 0.996 mmol). The reaction mixture was stirred at 0° C. for 4 h. The reaction mixture was then diluted with ethyl acetate and sodium metabisulfite (0.45 g, 2.37 mmol) and allowed to warm to 25° C. where it was stirred for 15 min. The mixture was then diluted with a saturated aqueous sodium chloride solution and water and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 2/3 hexanes/ethyl acetate to ethyl acetate) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2(S),3-dihydroxy-propyl)-pyrazin-2-yl]-propionamide (370.2 mg, 77.1%) as a white foam: mp 61–65° C. (foam to gel); (ES)+-HRMS m/e calcd for C22H28ClN3O5S (M+H)+ 482.1511, found 482.1516.

reactant | potassium carbonate | 3.111 mmol, 430.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(5-allyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentylpropionamide | 0.996 mmol, 446.0 mg | C(C=C)C=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C22H26ClN3O3S
reactant | sodium metabisulfite | 2.37 mmol, 0.45 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butyl alcohol water | 16.0 mL | C(C)(C)(C)O.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
catalyst | potassium ferricyanide | 3.037 mmol, 1.00 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
catalyst | (DHQ)2PHAL | 0.0244 mmol, 19.0 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
catalyst | toluene | 0.0096 mmol, 0.048 mL | C1(=CC=CC=C1)C | C7H8
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2(S),3-dihydroxy-propyl)-pyrazin-2-yl]-propionamide | 370.2 mg, 77.1% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)C[C@@H](CO)O)CC1CCCC1 | C22H28ClN3O5S
